US04861769
A solution of ethyl 2-cyclopropyloxyimino-3-oxobutyrate (syn isomer)(358 mg) and pyridinium hydrobromide perbromide (633 mg) in acetic acid (2 ml) was heated at 50° C. for 30 minutes. The mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed successively with saturated aqueous solution of sodium bicarbonate and water, dried over magnesium sulfate and concentrated in vacuo to give ethyl 4-bromo-2-cyclopropyloxyimino-3-oxobutyrate (syn isomer)(470 mg). To a solution of the compound obtained above in N,N-dimethylacetamide (2.2 ml) was added thiourea (126 mg) at ambient temperature. The mixture was stirred at the same temperature for an hour. The mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was subjected to column chromatography on silica gel using a mixture of chloroform and ethyl acetate (4:1 V/V) as an eluent to give ethyl 2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetate (syn isomer)(177 mg) as a crystal.

reactant | ethyl 2-cyclopropyloxyimino-3-oxobutyrate | 358 mg | C1(CC1)ON=C(C(=O)OCC)C(C)=O | C9H13NO4
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | ethyl 4-bromo-2-cyclopropyloxyimino-3-oxobutyrate | 470 mg | BrCC(C(C(=O)OCC)=NOC1CC1)=O | C9H12BrNO4
